US06399629B1
(D) 1-(trans-4-Glycylamino-L-prolyl)-4-(3,5-dichlorophenoxy)piperidine Dihydrochloride
A solution of 4 N hydrochloric acid in 1,4-dioxane (13 mL) was added to a solution of 1-[trans-4-(N-tert-butoxycarbonylglycylamino)-N-tert-butoxycarbonyl-L-prolyl]-4-(3,5-dichlorophenoxy)piperidine (C, 640 mg) in 1,4-dioxane (13 mL) at room temperature. After stirring at room temperature for 30 min, the reaction mixture was evaporated in vacuo. The residue was washed with ether to give the titled compound (361 mg) as white crystals: 1H NMR (400 MHz, D2O) δ 1.80 (br s, 2H), 2.03 (br s, 2H), 2.40 (m, 1H), 2.61 (m, 1H), 3.46-3.50 (m, 2H), 3.60 (br s, 1H), 3.77 (m, 3H), 3.86 (s, 2H), 4.58 (br s, 1H), 4.72 (br s, 1H), 5.03 (t, J=8.3 Hz, 1H), 7.03 (br s, 2H), and 7.10 (br s, 1H); mass spectrum (EI+) m/e 415.

reactant | hydrochloric acid | 4 N | Cl | ClH
reactant | 1-[trans-4-(N-tert-butoxycarbonylglycylamino)-N-tert-butoxycarbonyl-L-prolyl]-4-(3,5-dichlorophenoxy)piperidine | 640 mg | C(C)(C)(C)OC(=O)NCC(=O)N[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)N1CCC(CC1)OC1=CC(=CC(=C1)Cl)Cl | C28H40Cl2N4O7
solvent | 1,4-dioxane | 13 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 13 mL | O1CCOCC1 | C4H8O2
product | 1-(trans-4-Glycylamino-L-prolyl)-4-(3,5-dichlorophenoxy)piperidine Dihydrochloride | 361 mg | Cl.Cl.NCC(=O)N[C@@H]1C[C@H](NC1)C(=O)N1CCC(CC1)OC1=CC(=CC(=C1)Cl)Cl | InChI=1S/C18H24Cl2N4O3.2ClH/c19-11-5-12(20)7-15(6-11)27-14-1-3-24(4-2-14)18(26)16-8-13(10-22-16)23-17(25)9-21;;/h5-7,13-14,16,22H,1-4,8-10,21H2,(H,23,25);2*1H/t13-,16+;;/m1../s1
